US08980926B2
Step 2. Making N-(4-chloro-2-(2-ethoxy-5-fluorobenzoyl)phenyl)acetamide
Making Grignard reagent: A solution of 2-ethoxy-4-fluorophenyl bromide (30 g, 138 mmol) in THF (140 ml) was added dropwisely into a stirred mixture of magnesium flake and catalytically amount of iodine under nitrogen. The result mixture was heated to reflux for 15 minutes and cooled to room temperature (Grignard reagent). In a separated flask, 6-chloro-2-methyl-4H-benzo[d][1,3]oxazin-4-one (25 g, 128 mmole) was dissolved into THF (200 ml) and stirred under nitrogen. The Grignard reagent was transferred slowly into the flask during 30 minutes. The reaction temperature was kept below 55° C. during addition. The result mixture was stirred for further 2 hours under nitrogen. The reaction was quenched by slowly addition of aqueous solution of ammonium chloride (30 g/300 ml). The reaction was extracted into MTBE (500 ml). The organic layer was washed with brine, dried (Na2SO4), filtered and concentrated on a rotary evaporator to solid. The solid was sonicated for 5 minutes in ethyl acetate (250 ml) and filtered. The filtrate was concentrated on a rotary evaporator to about 70 ml and cooled at −20° C. for 4 hours. During this time, crystallized product came out and was collected by filtration (25 g, yield: 58%). 1H NMR (CDCl3): 11.2 (br, 1H), 8.73 (d, J=22 Hz, 1H), 7.49 (dd, J=24 Hz, 7 Hz, 1H), 7.38 (d, J=6 Hz, 1H), 7.2 (m, 1H), 7.07 (dd, J=20 Hz, 8 Hz, 1H), 6.93 (m, 1H), 3.97 (q, J=17 Hz, 2H), 2.27 (s, 1H), 1.13 (tr, J=17 Hz, 3H).

reactant | 2-ethoxy-4-fluorophenyl bromide | 138 mmol, 30 g | C(C)OC1=C(C=CC(=C1)F)Br | C8H8BrFO
reactant | magnesium | [Mg] | Mg
reactant | iodine | II | I2
reactant | 6-chloro-2-methyl-4H-benzo[d][1,3]oxazin-4-one | 128 mmole, 25 g | ClC1=CC2=C(N=C(OC2=O)C)C=C1 | C9H6ClNO2
reactant | THF | 140 ml | C1CCOC1 | C4H8O
reactant | THF | 200 ml | C1CCOC1 | C4H8O
product | N-(4-chloro-2-(2-ethoxy-5-fluorobenzoyl)phenyl)acetamide | yield: 58% | ClC1=CC(=C(C=C1)NC(C)=O)C(C1=C(C=CC(=C1)F)OCC)=O | C17H15ClFNO3
